2126-11-11 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2126-11-11**] 02:39 AM
   Other medications:
   Folic acid
   Thiamine
   Protonix
   Lorazepam
   Phenytoin
   Metoprolol
   Baclofen
   Colace
   Senna
   Propofol
   Chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-11**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 84 (84 - 108) bpm
   BP: 112/73(83) {110/69(81) - 146/96(109)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 100% (99-100)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
             2,349 mL
   PO:
             TF:
   IVF:
   1,159 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    408 mL
   Urine:
   408 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,941 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 733 (733 - 733) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 36
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.54/40/147/33/11
   Ve: 5 L/min
   PaO2 / FiO2: 490
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, sluggish pupils; 2 mm bilaterally
   Head, Ears, Nose, Throat: OG tube ET inplace
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, g-tube in place
   without signs of infection
   Extremities: R arm without sign of displaced fracture.
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Moves ext spontaneously,
   Nonresponsive off sedation for 4 hrs., Tone: increased in UEs.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   383 K/uL
   8.2 g/dL
   86 mg/dL
   0.8 mg/dL
   33 mEq/L
   2.9 mEq/L
   15 mg/dL
   93 mEq/L
   140 mEq/L
   24.6 %
   11.3 K/uL
        [image002.jpg]
   Hct 24.6 to 23.1
   K 4.7
   Dilantin 19.4
   CT spine with Disc bulge C3-C4
   CT head
   Right superior minimally displaced orbital fracture. Adjacent right
   basal
   frontal parenchymal hemorrhagic contusion with surrounding edema.
   Follow up
   recommended to ensure resolution, and exclude an underlying mass.
   CT head #2 pending
   CXR: R humeral head fracture.
                            [**2126-11-11**]  01:00 AM
                            [**2126-11-11**]  01:58 AM
                            [**2126-11-11**]  02:21 AM
   WBC
   11.3
   Hct
   24.6
   Plt
   383
   Cr
   0.8
   TropT
   0.04
   TCO2
   40
   35
   Glucose
   86
   Other labs: PT / PTT / INR:13.5/25.1/1.2, CK / CKMB /
   Troponin-T:106/3/0.04, ALT / AST:23/33, Alk Phos / T Bili:133/0.6,
   Amylase / Lipase:273/34, Lactic Acid:1.8 mmol/L, Albumin:3.6 g/dL,
   LDH:225 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   57 yo male with h/o ETOH abuse now presents s/p witness seizure at home
   found to have ? right frontal contusion, metabolic alkalosis, and
   anemia with previous HCT baseline 30-33
   # Seizure: unclear etiology; could have likely been in the setting of
   an ICH since according to wife, the seizure occured after the first
   witnessed fall with head trauma.  Other possibilities include DTs
   though ETOH level 11 on admit. Metabolic disturbances such as
   hypoglycemia. h/o PE with LOC.  No specific neurological deficits on
   limited exam
   - NSURG/Neuro consults
   - dilantin loaded 1gm IV x 1 now on 100 mg TID; level this am 19.4,
   follow up dosing recs
   - repeat non-contrast head CT done, results pending
   - infectious workup- blood cx, urine cx pending. UA negative
   - unlikely this is PE given good oxygenation; though patient does have
   sinus tachycardia
   - maintain SBP<140
   -Concerning that pt was unresponsive this am off propofol for 4 hrs but
   has since cleared up, likelyl [**12-29**] meds given with intubation.
   # Metabolic Alkalosis: pH 7.54 on ABG, pCO2 is 44, and HCO3 is 37.
   Unclear whether this is from GI losses given poor nutrition, renal
   losses
   - recheck lytes, HCO3 downtrending 33-30.
   - continue to trend.
   #. Trauma- s/p fall.  CT head with right orbital fracture; no C-spine
   fractures noted on prelim read
   - neurosurg consult recs appreciated
   - c-collar in place; continue until cleared
   - f/u final CT read; logroll precautions for now; c-spine not cleared
   until final read
   - f/u read on repeat CT
   -CXR shows R humeral head fracture, awaiting read.
   -Ortho consult. Ordered Shoulder X-ray, shouder in sling
   #. Anemia: previous HCT 30-33, now currently 23.5.  MCV 91.  Guaiac
   negative in ED.  Has h/o portal grastropathy per record. FAST negative
   in ED.  no need for EGD at this time
   - guaiac all stools
   - check iron studies, B12, folate
   #. Resp: Was intubated on AC with good O2 sats.
   -          weaned propofol off but remained solmulent.
   -          RSBI 36 this am, once MS [**First Name (Titles) **] [**Last Name (Titles) 619**] CPAP, extubated
   without difficulty
   # ETOH abuse: significant ETOH use.  unclear when last drink was. ETOH
   on admit 11.
   -          ativan CIWA protocol
   -          s/p banana bag
   -          daily thiamine, folate
   # FEN: NPO for now; holding on TF until clear why pt has peg
   -[**Hospital3 **] recs for details on why pt on TF to begin with.
   # PPx: pneumoboots, PPI
   # ACCESS: 18G and 20G
   # CODE: Full code
   # COMM: [**First Name8 (NamePattern2) **] [**Known lastname 2874**]- home [**Telephone/Fax (1) 2875**]; cell [**Telephone/Fax (1) 2876**]; btwn 6a-5p
   [**Telephone/Fax (1) 2877**] (w)
   # DISP: ICU for now
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 TRAUMA, S/P
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-11-11**] 12:00 AM
   20 Gauge - [**2126-11-11**] 12:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-11-12 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   extubated.
   Pt mental status remained abnormal. Repeating word continuously.
   Was told pt complained of blindess. Unable to get pt to confirm this.
   Neurosurg recommanded MR with and without gad to eval  head lesion,
   seen as hypodensity on repeat CT. Neurosurg also signed off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-11-12**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 103 (79 - 107) bpm
   BP: 111/52(68) {93/52(66) - 136/91(100)} mmHg
   RR: 23 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,484 mL
                                                                    190 mL
   PO:
             TF:
   IVF:
                                                                  3,114 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,611 mL
                                                                    885 mL
   Urine:
                                                                  1,611 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,873 mL
                                                                   -695 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 476 (476 - 476) mL
   PS : 10 cmH2O
   RR (Set): 6
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: awake, restless
   Eyes / Conjunctiva: 2 mm bilaterally, arcus senilis
   Head, Ears, Nose, Throat: NCAT, collared in [**Location (un) 239**] J
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, g-tube in place
   without signs of infection
   Extremities: R arm without sign of displaced fracture.
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to voice, restless, confused, answers directed
   questions.   Moving all extremities. No facial droop
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   314 K/uL
   6.5 g/dL
   84 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.7 mEq/L
   9 mg/dL
   102 mEq/L
   138 mEq/L
   20.0 %
   11.9 K/uL
        [image002.jpg]
                            [**2126-11-11**]  01:00 AM
                            [**2126-11-11**]  01:58 AM
                            [**2126-11-11**]  02:21 AM
                            [**2126-11-11**]  06:11 AM
                            [**2126-11-11**]  04:33 PM
                            [**2126-11-12**]  05:07 AM
   WBC
   11.3
   12.2
   14.0
   11.9
   Hct
   24.6
   23.1
   23.2
   20.0
   Plt
   383
   388
   370
   314
   Cr
   0.8
   0.8
   0.8
   TropT
   0.04
   TCO2
   40
   35
   Glucose
   86
   216
   84
   Other labs: PT / PTT / INR:12.9/29.4/1.1, CK / CKMB /
   Troponin-T:106/3/0.04, ALT / AST:23/33, Alk Phos / T Bili:133/0.6,
   Amylase / Lipase:273/34, Lactic Acid:1.8 mmol/L, Albumin:3.6 g/dL,
   LDH:225 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   57 yo male with h/o ETOH abuse now presents s/p witness seizure at home
   found to have ? right frontal contusion, metabolic alkalosis, and
   anemia with previous HCT baseline 30-33
   # Seizure: unclear etiology; could have likely been in the setting of
   an ICH since according to wife, the seizure occured after the first
   witnessed fall with head trauma.  Other possibilities include DTs
   though ETOH level 11 on admit. Metabolic disturbances such as
   hypoglycemia. h/o PE with LOC.  No specific neurological deficits on
   limited exam
   - NSURG/Neuro consults
   - dilantin loaded 1gm IV x 1 now on 100 mg TID; level this am 19.4,
   follow up dosing recs
   - repeat non-contrast head CT done
 unchanged from previous study
   - infectious workup- blood cx, urine cx pending. UA negative
 no cx
   results
   - unlikely this is PE given good oxygenation; though patient does have
   sinus tachycardia
   - maintain SBP<140
   -Concerning that pt was unresponsive this am off propofol for 4 hrs but
   has since cleared up, likelyl [**12-29**] meds given with intubation on [**11-11**]
   - now confused, based on d/w family pt is not at baseline
    .
   # Anemia: previous HCT 30-33, now currently 23.5.  MCV 91.  Guaiac
   negative in ED.  Has h/o portal grastropathy per record. FAST negative
   in ED.  no need for EGD at this time
   - guaiac all stools
   - check iron studies, B12, folate
   .
   #. Trauma- s/p fall.  CT head with right orbital fracture; no C-spine
   fractures noted on prelim read
   - neurosurg consult recs appreciated
 signed off, no acute issues
   - c-collar in place
 transitioned to [**Location (un) 239**] J
   - f/u c-spine
 read was negative for fx
s, pt
s mental status is not
   clear, will clear c-spine when mentally clear.
   - f/u read on repeat CT
 no new changes
   -CXR shows R humeral head fracture
 d/w ortho old fx, no issues,
   shoulder immobilizer
   -Ortho consult. Ordered Shoulder X-ray, shouder in sling
   #. Resp: Was intubated on AC with good O2 sats.
   -          weaned propofol off but remained solmulent.
   -          RSBI 36 this am, once MS [**First Name (Titles) **] [**Last Name (Titles) 619**] CPAP, extubated
   without difficulty
   - tolerating RA with sats in mid 90s
   .
   # ETOH abuse: significant ETOH use.  unclear when last drink was. ETOH
   on admit 11.
   -          ativan CIWA protocol
   -          s/p banana bag
   -          daily thiamine, folate
   .
   # FEN: NPO initially, will start TF/Free water
   -[**Hospital3 **] recs re: PEG
 pt has esophageal strictures caused by long
   hx of emesis
   # PPx: pneumoboots, PPI
   # ACCESS: 18G and 20G
   # CODE: Full code
   # COMM: [**First Name8 (NamePattern2) **] [**Known lastname 2874**]- home [**Telephone/Fax (1) 2875**]; cell [**Telephone/Fax (1) 2876**]; btwn 6a-5p
   [**Telephone/Fax (1) 2877**] (w)
   # DISP: ICU for now
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 TRAUMA, S/P
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALCOHOL ABUSE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 TRAUMA, S/P
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-11-11**] 12:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: